US06403595B1
To a solution of 1-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-2-piperazinone (500 mg) in ethyl acetate (15 ml) and sodium bicarbonate solution (10 ml) was added at 0° C. 4-(bromomethyl)benzenesulfonyl chloride (453 mg), and the mixture was stirred at room temperature for 30 minutes. The organic layer was separated, washed with brine, dried and concentrated, and the residue was purified with silica gel column chromatography (hexane:ethyl acetate=2:3) to give colorless crystals of 4-[4-(bromomethyl)benzenesulfonyl]-1-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-2-piperazinone (437 mg).

reactant | 1-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-2-piperazinone | 500 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1C(CNCC1)=O | C15H27N3O3
reactant | 4-(bromomethyl)benzenesulfonyl chloride | 453 mg | BrCC1=CC=C(C=C1)S(=O)(=O)Cl | C7H6BrClO2S
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
product | 4-[4-(bromomethyl)benzenesulfonyl]-1-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-2-piperazinone | 437 mg | BrCC1=CC=C(C=C1)S(=O)(=O)N1CC(N(CC1)CC1CCN(CC1)C(=O)OC(C)(C)C)=O | C22H32BrN3O5S
